US04730053
S-(2-benzylcarbamoyl-phenylselenyl)-3-mercapto-1,2-propanediol
Prepared similar to example 1 from 2,88 g (10,0 mmol) of 2-benzyl-1,2-benzisoselenazole-3(2H)-one and 1,1 g (10,2 mmol) of 3-mercapto-1,2-propanediol.

reactant | 2-benzyl-1,2-benzisoselenazole-3(2H)-one | 10,0 mmol, 2,88 g | C(C1=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C14H11NOSe
reactant | 3-mercapto-1,2-propanediol | 10,2 mmol, 1,1 g | SCC(CO)O | C3H8O2S
product | S-(2-benzylcarbamoyl-phenylselenyl)-3-mercapto-1,2-propanediol | C(C1=CC=CC=C1)NC(=O)C1=C(C=CC=C1)[Se]SCC(CO)O | C17H19NO3SSe
